US08183380B2
rac-N-[2-(8-Methoxy-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-6-yl]-2-(tetrahydro-pyran-4-yl)-acetamide
The title compound was prepared in accordance with the general method 14 described in example 119 from rac-N2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,6-diamine and tetrahydropyran-4-yl-acetic acid; MS: m/e=446.1 (M+H+).

reactant | rac-N2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,6-diamine | COC=1C=CC=C2CCCC(C12)NC1=NC2=CC=C(C=C2C=C1)N | C20H21N3O
reactant | tetrahydropyran-4-yl-acetic acid | O1CCC(CC1)CC(=O)O | C7H12O3
product | rac-N-[2-(8-Methoxy-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-6-yl]-2-(tetrahydro-pyran-4-yl)-acetamide | COC=1C=CC=C2CCCC(C12)NC1=NC2=CC=C(C=C2C=C1)NC(CC1CCOCC1)=O | C27H31N3O3
